datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)([O-:21])C1=CC=CC=C1>>C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)C1=CC=CC=C1)CC 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[S]C([H])C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C(C)[O]2.C[S:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(C)[O]1 10=20;20,21=21"
"[OH:10]C(CCC)/C([H])=C([C:20](OCC)=[OH+:21])/C>>[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C([H])=C1C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][CH:20]2([H])C3=C(C(C([NH+:10]2(C))[H])O)C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])O)[H]  21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.C[O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)/C(C)=C(C)\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)=C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[S:10][H].[H][O+:21]=[C:20]([O]CC)[O][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][H])([O]CC)[O][H] 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C(C)C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C(C)C(C)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O:21]=[C:20](OC1=CC=CC=C1)O[H].[O-:10][H]>>[H][O:10][C:20]([O-:21])(OC1=CC=CC=C1)O[H] 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])O)[H]>>[O-:21][CH:20]2([H])C3=C(C(C([O:10]2)[H])O)C=CC=C3  10=20;20,21=21"
"[OH:10]C([H])/C(O)=C([C:20](OC)=[OH+:21])/[H]>>[OH:21][C:20]1(OC)[OH+:10]C([H])C(O)=C1[H] 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[O:10]([Na])C(CCC)C([H])C(C)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(C)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)C1=CC=CC=C1)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)C>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])C 21=20;20,10=10"
"[O:20]=[C:21](OC1=CC=CC=C1)O[H].CCCCCC[O:10][K]>>CCCCCC[O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)O[H] 10=21;21,20=20"
